US09062070B2
A solution of 4-bromo-2-methylbenzoic acid (25.0 g, 116 mmol) in DCM (400 mL) was treated with oxalyl chloride (11.7 mL, 134 mmol) and a catalytic amount of dry DMF (0.1 mL). The reaction was allowed to stir under nitrogen for 2 hours at room temperature. Removal of excess solvent gave crude acid chloride which was redissolved in DCM (400 mL). The mixture was then cooled to 0° C. and triethyl amine (40.5 mL, 291 mmol) was added followed by the slow addition of diethyl amine (24.3 mL, 233 mmol). The reaction was then allowed to warm to room temperature overnight. The crude mixture was then diluted with 400 mL of water and extracted with DCM (3×500 mL). The combined organic layers were then washed with brine (200 mL), dried over magnesium sulfate, filtered and then concentrated. The crude material was purified via MPLC (10% EtOAc/Hex) to afford 4-bromo-N,N-diethyl-2-methylbenzamide: LC-MS: (M+H)+ 270.

reactant | 4-bromo-2-methylbenzoic acid | 116 mmol, 25.0 g | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | oxalyl chloride | 134 mmol, 11.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethyl amine | 291 mmol, 40.5 mL | C(C)N(CC)CC | C6H15N
reactant | diethyl amine | 233 mmol, 24.3 mL | C(C)NCC | C4H11N
solvent | DCM | 400 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 400 mL | C(Cl)Cl | CH2Cl2
solvent | water | 400 mL | O | H2O
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | 4-bromo-N,N-diethyl-2-methylbenzamide | BrC1=CC(=C(C(=O)N(CC)CC)C=C1)C | C12H16BrNO
